US08669234B2
To a slurry of 2-[5-(6-{4-[2-(1-tert-butyloxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-phenyl}-naphthalen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.07 g, 0.09 mmol) in MeOH (0.1 mL) was added HCl in dioxanes (4 M, 1.5 mL). The resulting solution was stirred at room temperature for 2 hour and basified with NaOH (2 N). The crude product was extracted with CH2Cl2. The organic extracts were combined, dried over Na2SO4 and concentrated. (R)-Methoxycarbonylamino-phenyl-acetic acid (0.08 g, 0.4 mmol, 4.4 equiv.) and DMF (1.0 mL) were then added, followed by DEPBT (0.12 g, 0.4, 4 equiv.) and NaHCO3 (0.04 g, 0.43 mmol, 4 equiv.). The resulting slurry was stirred at room temperature for 7 days. The reaction mixture was purified by preparative HPLC (Gemini, 15→40% MeCN in H2O (0.1% formic acid)) and lyophilized to provide [2-(2-{5-[4-(6-{2-[1-(2-Methoxycarbonylamino-2-phenyl-acetyl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-naphthalen-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidin-1-yl)-2-oxo-1-phenyl-ethyl]-carbamic acid methyl ester (0.04 g, 49%) as a white powder. LCMS-ESI+: calc'd for C50H48N8O6: 856.4 (M+). Found: 858.1 (M+H+). 1H-NMR: 400 MHz, (CDCl3) 6: (Mixture of rotomers) 10.32-10.45 (m, 2H), 8.26 (s, 1H), 8.00 (s, 1H), 7.72-7.98 (m, 8H), 7.19-7.50 (m, 12H), 6.07 (m, 2H), 5.28-5.55 (m, 4H), 3.73 (m, 2H), 3.66 (s, 3H), 3.65 (s, 3H), 3.22 (m, 2H), 2.86-2.96 (m, 2H), 2.22 (m, 2H), 2.04 (m, 2H), 1.92 (m, 2H).

reactant | 2-[5-(6-{4-[2-(1-tert-butyloxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-phenyl}-naphthalen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.09 mmol, 0.07 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(=O)OC(C)(C)C | C40H46N6O4
reactant | HCl | Cl | ClH
reactant | NaOH | 2 N | [OH-].[Na+]
reactant | (R)-Methoxycarbonylamino-phenyl-acetic acid | 0.4 mmol, 0.08 g, 4.4 equiv. | COC(=O)N[C@@H](C(=O)O)C1=CC=CC=C1 | C10H11NO4
reactant | DEPBT | 0.12 g, 4 equiv. | CCOP(=O)(OCC)ON1C(=O)C2=C(C=CC=C2)N=N1 | C11H14N3O5P
reactant | NaHCO3 | 0.43 mmol, 0.04 g, 4 equiv. | C(=O)(O)[O-].[Na+]
reactant | MeOH | 0.1 mL | CO | CH4O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | [2-(2-{5-[4-(6-{2-[1-(2-Methoxycarbonylamino-2-phenyl-acetyl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-naphthalen-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidin-1-yl)-2-oxo-1-phenyl-ethyl]-carbamic acid methyl ester | 0.04 g, 49% | COC(NC(C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C1=CC=CC=C1)NC(=O)OC)=O)C1=CC=CC=C1)=O | C50H48N8O6
